US04719054
As described in 1(b), 3.6 g of 15α-benzoyloxy-3-methoxy-18-methyl-3,5-estradien-17-one is reacted with lithium acetylide. After completed reaction, the reaction mixture is combined with saturated ammonium chloride solution, diluted with ethyl acetate, washed with water, and dried over sodium sulfate. The resultant 17α-ethynyl-3-methoxy-18-methyl-3,5,15-estratrien-17β-ol is stirred, in the form of the crude product, in 70 ml of methanol and 6 ml of water with 3 g of oxalic acid for 10 minutes under reflux. The reaction mixture is introduced into ice/water. The thus-precipitated product is suctioned off, dissolved in ethyl acetate, washed with water, and dried over sodium sulfate. Recrystallization from acetone/hexane yields 1.9 g of 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one, melting point 197.8° C.

reactant | 15α-benzoyloxy-3-methoxy-18-methyl-3,5-estradien-17-one | 3.6 g | C(C1=CC=CC=C1)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CC=C3C=C(CC[C@@H]3[C@H]1CC2)OC)=O | C27H32O4
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one | 1.9 g | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C21H26O2
